US04413005
Preparation of 2,3-dihydro-2,2-dimethylbenzofuran-7-yl N-[N,N-bis(ethoxycarbonylmethyl)aminosulfenyl]-N-methylcarbamate
A 11 g quantity (0.05 mole) of 2,3-dihydro-2,2-dimethylbenzofuran-7-yl N-methyl-carbamate was dissolved in 50 ml of chloroform, 5.2 g (0.05 mole) of sulfur dichloride was added to the solution with cooling, and 5 g (0.05 mole) of triethylamine was further added dropwise to the solution at 0° C. The mixture was stirred at the same temperature for 2 hours, a solution of 9.5 g (0.05 mole) of ethyl iminodiacetate in 20 ml of chloroform was then added dropwise to the mixture at the same temperature, and 5 g (0.05 mole) of triethylamine was further added dropwise to the mixture. The resulting mixture was stirred at 0° C. for 2 hours and thereafter allowed to stand overnight at room temperature. With addition of 100 ml of chloroform, the reaction mixture was washed with 100 ml of water three times. The chloroform layer was dried and then concentrated in a vacuum to give an oily product, which was almost entirely composed of the desired product although containing small amounts of the starting materials. Yield: 15.9 g (72.3%).

reactant | 2,3-dihydro-2,2-dimethylbenzofuran-7-yl N-methyl-carbamate | 0.05 mole | CNC(OC1=CC=CC=2CC(OC21)(C)C)=O | C12H15NO3
reactant | sulfur dichloride | 0.05 mole, 5.2 g | S(Cl)Cl | Cl2S
reactant | triethylamine | 0.05 mole, 5 g | C(C)N(CC)CC | C6H15N
reactant | ethyl iminodiacetate | 0.05 mole, 9.5 g | N(CC(=O)[O-])CC(=O)OCC
reactant | triethylamine | 0.05 mole, 5 g | C(C)N(CC)CC | C6H15N
solvent | chloroform | 50 ml | C(Cl)(Cl)Cl | CHCl3
solvent | chloroform | 20 ml | C(Cl)(Cl)Cl | CHCl3
solvent | chloroform | 100 ml | C(Cl)(Cl)Cl | CHCl3
product | 2,3-dihydro-2,2-dimethylbenzofuran-7-yl N-[N,N-bis(ethoxycarbonylmethyl)aminosulfenyl]-N-methylcarbamate | C(C)OC(=O)CN(SN(C(OC1=CC=CC=2CC(OC21)(C)C)=O)C)CC(=O)OCC | C20H28N2O7S
